US04282245
To a mixture of 180 mg of 2-(10,11-dihydro-9-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide and 5 ml of ethanol was added 700 mg of potassium hydroxide in 5 ml of water, and the resulting mixture was stirred at 75° C. for 1 hour and further at 85° C. for 2 hours. The solvent or ethanol was removed by distillation to obtain a mixture, to which was added water, and the resulting mixture washed with chloroform. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a red oily substance, which was chromatographed over 3 g of silica gel and eluted with chloroform, thereby obtaining 48 mg (yield: 27%) of 2-(10,11-dihydro-9-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a yellow oily substance.

reactant | 2-(10,11-dihydro-9-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 180 mg | COC1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)C(C(=O)N)C)=O | C18H17NO3S
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 700 mg | [OH-].[K+]
solvent | water | 5 ml | O | H2O
product | 2-(10,11-dihydro-9-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 48 mg, yield: 27% | COC1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)C(C(=O)O)C)=O | C18H16O4S
